US08044062B2
To a lithium aluminum hydride solution (LAH, 1.0 M solution in THF, Aldrich, 450 mL) was added a solution of ethyl 4-(ethylamino)-6-methyl-2-(methylthio)pyrimidine-5-carboxylate (57 g) in THF (1000 mL). The reaction mixture was stirred overnight. After cooling to 0° C., the reaction mixture was cautiously quenched with a 1:9 mixture of H2O/THF until gas evolution has ceased, then diluted with H2O (500 mL) and stirred well for 2 h. The resulting slurry was extracted with ethylacetate several times. The aqueous layer was then filtered through Celite and washed with ethylacetate again. The combined organic layers were washed with brine, dried and concentrated under reduced pressure to give 41.0 g (85% yield) of [4-(ethylamino)-6-methyl-2-(methylthio)pyrimidin-5-yl]methanol as a light yellow crystal, which was used without purification in the next step.

reactant | lithium aluminum hydride | 1.0 M, 450 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 4-(ethylamino)-6-methyl-2-(methylthio)pyrimidine-5-carboxylate | 57 g | C(C)NC1=NC(=NC(=C1C(=O)OCC)C)SC | C11H17N3O2S
solvent | THF | 1000 mL | C1CCOC1 | C4H8O
product | [4-(ethylamino)-6-methyl-2-(methylthio)pyrimidin-5-yl]methanol | 41.0 g, 85% yield | C(C)NC1=NC(=NC(=C1CO)C)SC | C9H15N3OS
